US09403833B2
Step 4: 4-Amino-2-(2-fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one
2-(2-Fluorophenyl)-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one (208 g, 828 mmol) and 10% Pd/C (25 g, 235 mmol) in MeOH (3000 ml) was subjected to hydrogenation over 98 hrs at 0.1 bar at RT. The resulting mixture was filtered over a pad of Celite® (filter material), washed with MeOH (1000 ml) and the filtrate was evaporated to dryness. To the solid was added DCM (300 ml) and this was heated at 65° C., followed by addition of toluene (900 ml). The DCM was removed under reduced pressure and the resulting mixture was allowed to cool to RT with stirring and left to stand at RT overnight. The mixture was filtered, washing with 1:1 toluene:heptane (200 ml) and heptane (800 ml) and dried under v to give the title compound as light yellow crystals.

reactant | 2-(2-Fluorophenyl)-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one | 828 mmol, 208 g | FC1=C(C=CC=C1)N1N(C(=C(C1=O)[N+](=O)[O-])C)C | C11H10FN3O3
solvent | MeOH | 3000 ml | CO | CH4O
catalyst | Pd/C | 235 mmol, 25 g | [Pd] | Pd
product | 4-Amino-2-(2-fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one | NC=1C(N(N(C1C)C)C1=C(C=CC=C1)F)=O | C11H12FN3O
